US05684017
5,7-Dichloro-2-acetyl-1,4-dihydroquinol-4-one
Combine 5,7-dichloro-4-benzyloxy-2-acetylquinoline (0.75 g, 2.2 mmol) and trifluoroacetic acid (55 mL) and heat to 80° C. After 4 hours evaporate the reaction mixture in vacuo to give a residue. Recrystallize the residue from acetonitrile to give the title compound; mp, 277°-278° C. (dec). Rf =0.29 TLC/silica gel/5% acetone in dichloromethane. Elem. Anal. Calcd. for C11H7Cl2 NO2 : C, 51.59; H, 2.76; N, 5.47. Found: C, 50.65; H, 2.83; N, 5.26.

reactant | 5,7-dichloro-4-benzyloxy-2-acetylquinoline | 2.2 mmol, 0.75 g | ClC1=C2C(=CC(=NC2=CC(=C1)Cl)C(C)=O)OCC1=CC=CC=C1 | C18H13Cl2NO2
reactant | trifluoroacetic acid | 55 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5,7-Dichloro-2-acetyl-1,4-dihydroquinol-4-one | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C)=O)=O | C11H7Cl2NO2
